US08633237B2
a) (S)-methyl 3-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate
A suspension of (S)-methyl 3-((2-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate (0.254 mmol, 123 g) and palladium hydroxide (0.064 mmol, 45 mg) in ethanol (9 mL) was treated under hydrogenation conditions (2 bar hydrogen) for 30 minutes. The reaction mixture was filtered through celite and the pad washed with EtOH & EtOAc before the filtrate was concentrated under reduced pressure to give a light brown film (82 mg, 92%). MS (ESI): m/z [M+H]+ 350.0

reactant | (S)-methyl 3-((2-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate | 0.254 mmol, 123 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C27H24F3NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 9 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.064 mmol, 45 mg | [OH-].[Pd+2].[OH-]
product | (S)-methyl 3-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate | N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C19H18F3NO2
